US03934008
39. H-Ala-Ile-Gly-OMe
2.0 g of Z-Ala-Ile-Gly-OMe are dissolved in 40 ml of methanol with gentle warming and then hydrogenated in the presence of 300 mg of Pd on charcoal (10 %). After completion of the hydrogenation the catalyst is filtered off and the filtrate completely evaporated to dryness. The residue, which is homogeneous in a thin layer chromatogram, is immediately processed further.

reactant | Z-Ala-Ile-Gly-OMe | 2.0 g | N([C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(=O)OC)C(=O)OCC1=CC=CC=C1 | C20H29N3O6
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd on charcoal | 300 mg | [Pd] | Pd
product | H-Ala-Ile-Gly-OMe | N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(=O)OC | C12H23N3O4
